US06514969B2
11.4.: 1-[1-(3-imidazo[1,2-a]pyridin-3-ylpropyl)piperidin-4-yl]-1,3-dihydrobenzimidazol-2-one
240 mg (2.21 mmol) of 1-piperidin-4-yl-1,3-dihydrobenzimidazol-2-one is dissolved in 3.5 ml of acetonitrile and 3.5 ml of DMF at 50° C. and at this temperature a solution of 240 mg (1.00 mmol) of the compound of Example 11.3 in 7.5 ml of ethyl acetate is added dropwise. The mixture is initially stirred for 5 hours at 50° C., then for 72 hours at RT. The solution is evaporated down and the residue is purified by flash chromatography (dichloromethane/ethanol 90:10), yielding 48 mg of product. MS: m/z 376 [(M+H)+]; melting point: 185° C.

reactant | 1-piperidin-4-yl-1,3-dihydrobenzimidazol-2-one | 2.21 mmol, 240 mg | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | DMF | 3.5 ml | CN(C)C=O | C3H7NO
reactant | acetonitrile | 3.5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 7.5 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(3-imidazo[1,2-a]pyridin-3-ylpropyl)piperidin-4-yl]-1,3-dihydrobenzimidazol-2-one | 48 mg | N=1C=C(N2C1C=CC=C2)CCCN2CCC(CC2)N2C(NC1=C2C=CC=C1)=O | C22H25N5O
